US05925767
1. Ethyl 3-(2-bromoethoxy)-2-methylbenzoate
13.6 g (0.2 mol) of sodium methylate are dissolved in 200 ml of ethanol. 36 g (0.2 mol) of ethyl 3-hydroxy-2-methylbenzoate are then added and the mixture refluxed for 2 hours. 61.4 g (0.32 mol) of 1,2-dibromoethane are subsequently added dropwise and the mixture is refluxed for 20 hours. When cold, the reaction mixture is concentrated on a rotary evaporator. The residue is taken up in ethyl acetate and washed 3 times with dilute sodium hydroxide solution. The organic phase is dried and the solvent is distilled off. The product of value is purified by column chromatography. Yield: 14.6 g of oil

reactant | sodium methylate | 0.2 mol, 13.6 g | C[O-].[Na+]
reactant | ethyl 3-hydroxy-2-methylbenzoate | 0.2 mol, 36 g | OC=1C(=C(C(=O)OCC)C=CC1)C | C10H12O3
reactant | 1,2-dibromoethane | 0.32 mol, 61.4 g | BrCCBr | C2H4Br2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | Ethyl 3-(2-bromoethoxy)-2-methylbenzoate | BrCCOC=1C(=C(C(=O)OCC)C=CC1)C | C12H15BrO3
